US05914351
To a chilled suspension of N-(4-chloro-3-formylphenyl)-2-methyl-3-furancarboxamide (2.0 g) in methanol (30 ml) was added 4-aminomorpholine (0.8 g). The resultant reaction mixture was stirred overnight. TLC analysis (methlyenechloride:ether, 5:1) of the reaction mixture showed a new spot and traces of substrate. The reaction mixture was stirred for another hour at 30° C. and then the reaction mixture was poured into water and extracted into ether/ethyl acetate. The extract was washed with water, dried (MgSO4), filtered, and evaporated to leave a solid. The solid was then covered with ether/ligroin and stirred for several hours and then collected on a filter to give 2.3 g of N-[4-chloro-3-[(4-morpholinylimino)methyl]phenyl]-2-methyl-3-furancarboxamide as an off-white solid, mp 121-123° C.

reactant | N-(4-chloro-3-formylphenyl)-2-methyl-3-furancarboxamide | 2.0 g | ClC1=C(C=C(C=C1)NC(=O)C1=C(OC=C1)C)C=O | C13H10ClNO3
reactant | 4-aminomorpholine | 0.8 g | NN1CCOCC1 | C4H10N2O
reactant | methlyenechloride | C(Cl)Cl | CH2Cl2
reactant | ether | CCOCC | C4H10O
solvent | methanol | 30 ml | CO | CH4O
solvent | water | O | H2O
product | N-[4-chloro-3-[(4-morpholinylimino)methyl]phenyl]-2-methyl-3-furancarboxamide | 2.3 g | ClC1=C(C=C(C=C1)NC(=O)C1=C(OC=C1)C)C=NN1CCOCC1 | C17H18ClN3O3
